US07923450B2
a) [4-(2-Methyl-oxazol-5-yl)-phenyl]-thiourea
To a solution of 4-(2-methyl-oxazol-5-yl)phenylamine (470 mg, 2.7 mmol, CAS 89260-50-4) in tetrahydrofurane (6 mL) was added drop wise under benzoyl isothiocyanate (402 uL, 2.8 mmol). The reaction was stirred at room temperature for 3 hours. The solvent was removed under reduced pressure. The residue was dissolved in methanol (7 mL) and a solution of potassium carbonate (1119 mg, 8.1 mmol) in water (3.6 mL) was added. A solid precipitated and the reaction was stirred over night at room temperature. The solvent was removed under reduced pressure. The residue was dissolved in methanol (20 mL), tetrahydrofurane (10 mL) and 1M aqueous sodium hydroxide solution (8.1 mL). The reaction was stirred over night at room temperature, diluted with water and extracted three times with methylene chloride. The combined organic layers were dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was suspended in water and extracted three times with methylene chloride. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and the solvent was removed under reduced pressure. The residue was purified on silica gel using methylene chloride and methylene chloride/methanol (19:1 v/v) as eluent to yield the title compound (105 mg, 17%) as a light brown solid. MS ISP (m/e): 234.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=9.79 (s, 1H), 7.59 (d, 1H), 7.52 (d, 2H), 7.45 (s, 1H), 2.47 (s, 3H).

reactant | 4-(2-methyl-oxazol-5-yl)phenylamine | 2.7 mmol, 470 mg | CC=1OC(=CN1)C1=CC=C(C=C1)N | C10H10N2O
reactant | benzoyl isothiocyanate | 2.8 mmol, 402 uL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | potassium carbonate | 8.1 mmol, 1119 mg | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofurane | 6 mL | O1CCCC1 | C4H8O
solvent | water | 3.6 mL | O | H2O
product | [4-(2-Methyl-oxazol-5-yl)-phenyl]-thiourea | 105 mg, 17% | CC=1OC(=CN1)C1=CC=C(C=C1)NC(=S)N | C11H11N3OS
